US07166598B2
To a solution of (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(4-methoxybenzyl)-4-benzylpiperazine (4.90 g) in ethanol (50 ml) were added water (5 ml), ammonium formate (1.44 g), and 10% palladium on activated carbon [50% wet] (0.49 g) under nitrogen atmosphere. The reaction mixture was heated at 60° C. with stirring for 2 hours. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. Ethyl acetate (40 ml) and water (40 ml) were added to the residue, and the organic layer was separated, washed with brine, and dried over magnesium sulfate. After removal of the solvent by evaporation, the resulting residue was purified by column chromatography on silica gel (70 g) using a mixed solvent of ethyl acetate and methanol (10:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(4-methoxybenzyl)piperazine (3.18 g) as syrup.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)-benzoyl]-2-(4-methoxybenzyl)-4-benzylpiperazine | 4.90 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC2=CC=CC=C2)CC2=CC=C(C=C2)OC)C=C(C1)C(F)(F)F)(F)F | C28H26F6N2O2
reactant | water | 5 ml | O | H2O
reactant | ammonium formate | 1.44 g | C(=O)[O-].[NH4+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 0.49 g | [Pd] | Pd
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(4-methoxybenzyl)piperazine | 3.18 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC=C(C=C2)OC)C=C(C1)C(F)(F)F)(F)F | C21H20F6N2O2
